US05945560
The organic phase contained from 75 to 85% by weight of butyl acrylate, from 14 to 20% by weight of butanol, from 2 to 3% by weight of water, 1500 ppm of butyl acetate. The excess water corresponding to the conversion in the reaction was removed from the system through line 27. 5% by weight of the bottom product (product II), based on the amount of starting materials fed to the esterification, was discharged via line 28 and fed to a stirred vessel IV. There, the product was evaporated batchwise at ambient pressure and 180° C. until the viscosity rose distinctly. The starting materials butanol and acrylic acid still present therein and the product butyl acrylate were first distilled off. The amount of distillate was up to about 65% by weight, based on the amount fed in. In the subsequent cracking of the high boilers, the bottom discharge was evaporated to about 15% of its original mass, and low-boiling by-products such as butenes and dibutyl ether were formed to a small extent only toward the end. The condensed vapors from the cracking in the stirred vessel IV consisted essentially of acrylic acid, butyl acrylate, butanol and water. This liquid was fed directly to the bottom of the column I for the high-boiler separation. A further rectification was not carried out.

reactant | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
reactant | butanol | C(CCC)O | C4H10O
reactant | water | O | H2O
solvent | butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | dibutyl ether | C(CCC)OCCCC | C8H18O
